US08304419B2
6-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide
HATU (91 mg, 0.24 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.16 mmol), 6-chloro-1H-indole-2-carboxylic acid (0.050 g, 0.24 mmol) and DIPEA (0.042 ml, 0.24 mmol) in DMF (1.5 mL). After 1 h, the reaction mixture was diluted with ethyl acetate and water. The organic layer was separated, dried over sodium sulfate and concentrated. The residue was purified by column chromatography (hexane/EtOAc) to give the title compound (0.033 g, 42%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.76 (s, 1H), 9.09 (t, 1H), 7.81 (s, 1H), 7.64 (d, 1H), 7.45-7.54 (m, 3H), 7.36-7.44 (m, 2H), 7.19 (s, 1H), 7.04 (dd, 1H), 4.56 (d, 2H). MS: m/z 488 (M+1).

reactant | HATU | 0.24 mmol, 91 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.16 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 6-chloro-1H-indole-2-carboxylic acid | 0.24 mmol, 0.050 g | ClC1=CC=C2C=C(NC2=C1)C(=O)O | C9H6ClNO2
reactant | DIPEA | 0.24 mmol, 0.042 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide | 0.033 g, 42% | ClC1=CC=C2C=C(NC2=C1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C23H13Cl3FN3O2
